US04994483
(i) 2-(1H-Indol-5-yl)-N,N-dimethylethenesulphonamide
A mixture of 5-bromoindole (7.7 g), N,N-dimethylethenesulphonamide (5.3 g) triethylamine (15 ml), acetonitrile (5 ml), palladium (II) acetate (0.35 g) and tri-o-tolylphosphine (0.95 g) was heated at 100° C. in an autoclave for 3 h. The resulting cooled mixture was partitioned between hydrochloric acid (2N, 300 ml) and ethyl acetate (2×150 ml). The combined extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by `flash` chromatography (V, 7 cm col.) to give the title compound as a crystalline solid (3.8 g) m.p. 148°-150° C.

reactant | 5-bromoindole | 7.7 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | N,N-dimethylethenesulphonamide | 15 ml, 5.3 g | CN(S(=O)(=O)C=C)C | C4H9NO2S
reactant | tri-o-tolylphosphine | 0.95 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium (II) acetate | 0.35 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-(1H-Indol-5-yl)-N,N-dimethylethenesulphonamide | 3.8 g | N1C=CC2=CC(=CC=C12)C=CS(=O)(=O)N(C)C | C12H14N2O2S
